US06331556B2
7-Methoxy-2-(tetrahydrofuran-2-yl)-benzofuran-4-carboxylic acid (3,5-dimethylisoxazol-4-yl)-amide
Starting from 7-methoxy-2-(tetrahydrofuran-2-yl)-benzofuran-4-carboxylic acid (262 mg) and 3,5-dimethylisoxazol-4-ylamine (120 mg). Purification by column chromatography on silica eluting with 30% ethyl acetate in hexane afforded the title compound as an off-white solid (238 mg).

reactant | 7-methoxy-2-(tetrahydrofuran-2-yl)-benzofuran-4-carboxylic acid | 262 mg | COC=1C=CC(=C2C=C(OC21)C2OCCC2)C(=O)O | C14H14O5
reactant | 3,5-dimethylisoxazol-4-ylamine | 120 mg | CC1=NOC(=C1N)C | C5H8N2O
product | 7-Methoxy-2-(tetrahydrofuran-2-yl)-benzofuran-4-carboxylic acid (3,5-dimethylisoxazol-4-yl)-amide | 238 mg | CC1=NOC(=C1NC(=O)C=1C=CC(=C2C1C=C(O2)C2OCCC2)OC)C | C19H20N2O5
